US06057304
1.80 g (6 mmol) of 2-(2,4-dinitrophenylamino) benzoic acid, 2.66 g (42.6 mmol) of ammonium chloride, 2.4 ml of ammonia, concentrated, 52 ml of ethanol, and 21 ml of distilled water are combined at an internal temperature of 78° C. (bath temperature 90° C.). To this batch is added, in 3 portions, 4.44 g (20 mmol) of sodium sulfide (35% strength) and the mixture is stirred for one hour. The batch is suctioned off at room temperature and washed in succession with water and ether. The filtrate is concentrated to the aqueous phase and extracted by shaking with ethyl acetate. The organic phase is dried, filtered, and concentrated. The aqueous phase is acidified with 1N hydrochloric acid and suctioned off, thus obtaining 1.1 g of 2-(2-amino-4-nitrophenylamino)benzoic acid (processed without purification).

reactant | 2-(2,4-dinitrophenylamino) benzoic acid | 6 mmol, 1.80 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NC1=C(C(=O)O)C=CC=C1 | C13H9N3O6
reactant | ammonium chloride | 42.6 mmol, 2.66 g | [Cl-].[NH4+]
reactant | ammonia | 2.4 ml | N | H3N
reactant | sodium sulfide | 20 mmol, 4.44 g | [S-2].[Na+].[Na+]
solvent | water | 21 ml | O | H2O
solvent | ethanol | 52 ml | C(C)O | C2H6O
product | 2-(2-amino-4-nitrophenylamino)benzoic acid | 1.1 g | NC1=C(C=CC(=C1)[N+](=O)[O-])NC1=C(C(=O)O)C=CC=C1 | C13H11N3O4
